### PR TITLE
feat(ErdosProblems): 633

### LINKED ISSUE #842: Erdős Problem 633
### What is the conjecture
    
https://www.erdosproblems.com/633

  Classify those triangles which can only be cut into a square number of congruent triangles.
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by YaelDillies**
Closes #842

### CODE REVIEW

File: FormalConjectures/ErdosProblems/633.lean [hunk 1]
```diff
@@ -0,0 +1,104 @@
...
+    (∀ i j, (Ts i).points ≅ (Ts j).points) ∧
+      Pairwise (fun i j ↦ Disjoint (Ts i).interior (Ts j).interior) ∧
+      ⋃ i, (Ts i).closedInterior = T.closedInterior
+
+/-- A triangle isn't cuttable into zero triangles. -/
+@[category API, AMS 5 51]
+lemma IsCuttable.ne_zero (hT : IsCuttable n T) : n ≠ 0 := by
+  rintro rfl
+  obtain ⟨Ts, -, -, hT⟩ := hT
+  exact T.closedInterior_nonempty.ne_empty <| by simpa using hT.symm
```
Comment (aditya-ramabadran) [inline FormalConjectures/ErdosProblems/633.lean:46]:
```suggestion
  exact (Set.nonempty_of_mem (Affine.Simplex.point_mem_closedInterior T 0)).ne_empty
    (by simpa using hT.symm)
```
compilation error here, this fixes it

File: FormalConjectures/ErdosProblems/633.lean [hunk 2]
```diff
@@ -0,0 +1,104 @@
...
+    (∀ i j, (Ts i).points ∼ (Ts j).points) ∧
+      Pairwise (fun i j ↦ Disjoint (Ts i).interior (Ts j).interior) ∧
+      ⋃ i, (Ts i).closedInterior = T.closedInterior
+
+/-- A triangle isn't simili-cuttable into zero triangles. -/
+@[category API, AMS 5 51]
+lemma IsSimiliCuttable.ne_zero (hT : IsSimiliCuttable n T) : n ≠ 0 := by
+  rintro rfl
+  obtain ⟨Ts, -, -, hT⟩ := hT
+  exact T.closedInterior_nonempty.ne_empty <| by simpa using hT.symm
```
Comment (aditya-ramabadran) [inline FormalConjectures/ErdosProblems/633.lean:90]:
```suggestion
  exact (Set.nonempty_of_mem (Affine.Simplex.point_mem_closedInterior T 0)).ne_empty
    (by simpa using hT.symm)
```
same error as above

**Review by aditya-ramabadran — CHANGES_REQUESTED** [review]
there's two compilation errors, my changes should fix them and then it should past the tests!

**Comment by YaelDillies** [comment]
Sorry, I forgot to copy a file over

**Review by mo271 — APPROVED** [review]
Thanks!
